US07585881B2
3-(3-{[[5-(2-methoxypyridin-4-yl)-4-methyl-4H-1,2,4-triazol-3-yl](methyl)amino]methyl}-1,2,4-oxadiazol-5-yl)benzonitrile
Sodium hydride (0.013 g, 0.53 mmol) was added portionwise to a stirred solution of 5-(2-methoxypyridin-4-yl)-N,4-dimethyl-4H-1,2,4-triazol-3-amine (0.086 g; 0.39 mmol) in DMF (10 ml) at 0° C. The mixture was stirred for 30 minutes before [5-(3-cyanophenyl)-1,2,4-oxadiazol-3-yl]methyl methanesulfonate (0.1 g; 0.36 mmol) in DMF (1 ml) was added dropwise. The mixture was stirred at r.t. for 3 h before quenching with water (30 ml). The resulting mixture was extracted with EA (3×40 ml). The organics were combined, dried (Na2SO4) and evaporated to give a crude material, which was purified by prep. HPLC to give the title compound (0.061 g; 42.3%). 1H NMR: 8.49 (s, 1H), 8.33 (dd, 1H), 8.28 (d, 1H), 7.86 (dd, 1H), 7.67 (t, 1H), 7.24 (d, 1H), 7.02 (s, 1H), 4.60 (s, 2H), 3.97 (s, 3H), 3.70 (s, 3H), 3.08 (s, 3H).

reactant | Sodium hydride | 0.53 mmol, 0.013 g | [H-].[Na+]
reactant | 5-(2-methoxypyridin-4-yl)-N,4-dimethyl-4H-1,2,4-triazol-3-amine | 0.39 mmol, 0.086 g | COC1=NC=CC(=C1)C=1N(C(=NN1)NC)C | C10H13N5O
reactant | [5-(3-cyanophenyl)-1,2,4-oxadiazol-3-yl]methyl methanesulfonate | 0.36 mmol, 0.1 g | CS(=O)(=O)OCC1=NOC(=N1)C1=CC(=CC=C1)C#N | C11H9N3O4S
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 3-(3-{[[5-(2-methoxypyridin-4-yl)-4-methyl-4H-1,2,4-triazol-3-yl](methyl)amino]methyl}-1,2,4-oxadiazol-5-yl)benzonitrile | 0.061 g, 42.3% | COC1=NC=CC(=C1)C=1N(C(=NN1)N(C)CC1=NOC(=N1)C=1C=C(C#N)C=CC1)C | C20H18N8O2
